US06248740B1
Production of 4-(diphenylmethoxy)-1-piperidinepropanol
2.67 g of 4-diphenylmethoxypiperidine was dissolved in 20 ml of N,N-dimethylformamide; 1.09 ml of 3-bromopropanol and 1.66 g of potassium carbonate were added, followed by stirring at room temperature for 40 hours. Ice water was added, followed by extraction with ethyl acetate; the extract was washed with saline and dried with magnesium sulfate. After the dry product was concentrated under reduced pressure, the residue was subjected to silica gel column chromatography and eluted with ethyl acetate:methanol:triethylamine (90:10:1). The desired fraction was collected and concentrated to yield 2.32 g of the title compound.

reactant | 4-diphenylmethoxypiperidine | 2.67 g | C1(=CC=CC=C1)C(OC1CCNCC1)C1=CC=CC=C1 | C18H21NO
reactant | 3-bromopropanol | 1.09 ml | BrCCCO | C3H7BrO
reactant | potassium carbonate | 1.66 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 4-(diphenylmethoxy)-1-piperidinepropanol | 2.32 g | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCO)C1=CC=CC=C1 | C21H27NO2
